US03931235
3-Isopropylthio-4-hydroxy-6-methyl-2-pyrone
A solution of 62.7 g. (0.57 mole) of isopropanesulfenyl chloride in 300 ml. of methylene chloride was added dropwise to a suspension of 84.5 g. (0.57 mole) of 4-hydroxy-6-methyl-2-pyrone in 200 ml. of methylene chloride while the reaction mixture was maintained at 20°C. The mixture was then warmed to 40°C. for 1.5 hours and finally stirred at room temperature for 17 hours. The by-product sodium chloride was removed by filtration and the filtrate evaporated to dryness, leaving a red liquid (85.5 g.) which solidified upon cooling in an ice bath. The crude product was recrystallized from cyclohexane to give 33.1 g. (28 percent) of the product as off-white crystals, m. 89°-91°C. A second recrystallization from cyclohexane gave white crystals, m. 91°-92°C.

reactant | isopropanesulfenyl chloride | 0.57 mole | C(C)(C)SCl | C3H7ClS
reactant | 4-hydroxy-6-methyl-2-pyrone | 0.57 mole | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Isopropylthio-4-hydroxy-6-methyl-2-pyrone | C(C)(C)SC=1C(OC(=CC1O)C)=O | C9H12O3S
